US08871753B2
Step E: Methyl 3-({3-[(tert-butoxycarbonyl)amino]phenyl}ethynyl)-5-nitrobenzoate
A solution of methyl 3-ethynyl-5-nitrobenzoate (1.45 g, 7.08 mmol), tert-butyl (3-iodophenyl)carbamate (2.26 g, 7.08 mmol) in THF (28 mL) was treated with bis(triphenylphosphine)palladium(II) chloride (248 mg, 0.354 mmol), copper(I) iodide (108 mg, 0.566 mmol) and N,N-diisopropylethylamine (2.47 mL, 14.2 mmol) and stirred at 25° C. overnight. The reaction was diluted with water and extracted with ethyl acetate three times. The combined organic solutions were dried with sodium sulfate, filtered, and concentrated in vacuo. The crude residue was purified by flash column chromatography to yield the desired product (1.85 g, 66%). LCMS for C21H20N2O6Na (M+Na)+: m/z=419.3.

reactant | methyl 3-ethynyl-5-nitrobenzoate | 7.08 mmol, 1.45 g | C(#C)C=1C=C(C(=O)OC)C=C(C1)[N+](=O)[O-] | C10H7NO4
reactant | tert-butyl (3-iodophenyl)carbamate | 7.08 mmol, 2.26 g | IC=1C=C(C=CC1)NC(OC(C)(C)C)=O | C11H14INO2
reactant | N,N-diisopropylethylamine | 14.2 mmol, 2.47 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | THF | 28 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.354 mmol, 248 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 0.566 mmol, 108 mg | [Cu]I
product | Methyl 3-({3-[(tert-butoxycarbonyl)amino]phenyl}ethynyl)-5-nitrobenzoate | 1.85 g, 66% | C(C)(C)(C)OC(=O)NC=1C=C(C=CC1)C#CC=1C=C(C(=O)OC)C=C(C1)[N+](=O)[O-] | C21H20N2O6
